US04956359
N-(Cyclopropylmethyl)-3-[4-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide
A stirred mixture of 4.4 g (0.027 mole) of 1,1'-carbonyldiimidazole and 2.9 g (0.027 mole) of (aminoethyl)cyclopropane hydrochloride in 50 ml of methylene chloride was treated with the dropwise addition of 2.73 g (0.027 mole) of triethylamine. The reaction was exothermic. The mixture was cooled while stirring for 1 hr, then 9.6 g (0.025 mole) of 3-[4-(trifluoromethyl)phenoxy]azetidine, 56.66% purity (contains diphenylmethane) was added all at once and stirring continued for 18 hr. The reaction mixture was concentrated on a rotary evaporator to give an amber residue. Trituration of this residue with 30/60 petroleum ether gave only an insoluble oil. The trituration step was repeated with 2×20 ml of 30/60 petroleum ether and the residue treated with water to yield a white solid. The solid was recrystallized from isopropyl ether to yield 4.8 g (61.8%) of white platelike crystals; after during at 80° C. under 0.5 mm Hg vacuum, m.p. 132°-133° C.

reactant | 1,1'-carbonyldiimidazole | 0.027 mole, 4.4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (aminoethyl)cyclopropane hydrochloride | 0.027 mole, 2.9 g | Cl.NCCC1CC1
reactant | triethylamine | 0.027 mole, 2.73 g | C(C)N(CC)CC | C6H15N
reactant | 3-[4-(trifluoromethyl)phenoxy]azetidine | 0.025 mole, 9.6 g | FC(C1=CC=C(OC2CNC2)C=C1)(F)F | C10H10F3NO
reactant | diphenylmethane | C1(=CC=CC=C1)CC1=CC=CC=C1 | C13H12
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-(Cyclopropylmethyl)-3-[4-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide | C1(CC1)CNC(=O)N1CC(C1)OC1=CC=C(C=C1)C(F)(F)F | C15H17F3N2O2
